US03946111
5-n-Pentyl resorcinol is reacted with methyl 5-methyl-3-oxo-tetrahydrothiophene-2-carboxylate to produce 1,2-dihydro-9-hydroxy-2-methyl-7-n-pentyl-4-oxo-4H-thieno[2,3-c][1] benzopyran, m.p. 188°-190°C, in 62% yield.

reactant | 5-n-Pentyl resorcinol | C(CCCC)C=1C=C(C=C(O)C1)O | C11H16O2
reactant | methyl 5-methyl-3-oxo-tetrahydrothiophene-2-carboxylate | CC1CC(C(S1)C(=O)OC)=O | C7H10O3S
product | 1,2-dihydro-9-hydroxy-2-methyl-7-n-pentyl-4-oxo-4H-thieno[2,3-c][1] benzopyran | 62% yield | OC1=CC(=CC2=C1C1=C(C(O2)=O)SC(C1)C)CCCCC | C17H20O3S
